US04467082
2-Hydroxy-4-methoxybenzophenone (114 parts) was dissolved in tetrahydrofuran (100 parts). Potassium hydroxide (30.9 parts) was added. By heating and stirring, complete dissolution was achieved. Allyl chloride (46.4 parts) and potassium iodide (4.2 parts) were added to this solution, which was then heated and refluxed for 8 hours. After cooling, it was washed with water and the solvent was removed by distillation. A crude product of the desired 2-allyloxy-4-methoxybenzophenone was obtained. It was recrystallized in n-hexane to obtain 125 parts of 2-allyloxy-4-methoxybenzophenone (melting point 40° C.) at 93% yield.

reactant | 2-Hydroxy-4-methoxybenzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OC | C14H12O3
reactant | Potassium hydroxide | [OH-].[K+]
reactant | Allyl chloride | C(C=C)Cl | C3H5Cl
reactant | potassium iodide | [I-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-allyloxy-4-methoxybenzophenone | C(C=C)OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OC | C17H16O3
